US03978081
11H,12H-[1]benzopyrano[2,3-b][1]benzopyran-11,12-dione
The starting material was prepared as follows: 13.6 g. 2-hydroxyacetophenone and 19.2 g NaH in 200 ml. of dry xylene containing 2 drops of methanol were heated under reflux to boiling. Then 15.2 g of methyl salicylate were added and heating continued for 7 hours. The needlemass was washed with ether and ice-water/acetic acid (2:1) and then recrystallized from C Cl4. Yield 5.0 g (20%); colorless crystals; m. 118°C.

reactant | 2-hydroxyacetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | NaH | 19.2 g | [H-].[Na+]
reactant | methyl salicylate | 15.2 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | methanol | CO | CH4O
catalyst | xylene | 2 drops | C=1(C(=CC=CC1)C)C | C8H10
product | 11H,12H-[1]benzopyrano[2,3-b][1]benzopyran-11,12-dione | C1=CC=CC2=C1C(C1=C(OC3=C(C1=O)C=CC=C3)O2)=O | C16H8O4
